US07851623B2
4-Azoniaspiro[3,4]octane chloride solution in water (88 ml) was added over 10 minutes to a solution of sodium hexafluorophosphate (50.3 g) in water (100 ml), followed by a line wash of water (12 ml). Further water (50 ml) was added to aid stirring of the thick suspension. The mixture was heated to 90° C. to aid stirring. The solid was filtered and washed with water (2×100 ml) and dried in a vacuum oven to give 4-azoniaspiro[3,4]octane hexafluorophosphate (54.14 g, 70.3% of theory).

reactant | 4-Azoniaspiro[3,4]octane chloride | [Cl-].C1CC[N+]12CCCC2
reactant | sodium hexafluorophosphate | 50.3 g | F[P-](F)(F)(F)(F)F.[Na+]
solvent | water | 88 ml | O | H2O
solvent | water | 100 ml | O | H2O
product | 4-azoniaspiro[3,4]octane hexafluorophosphate | 54.14 g, 70.3% | F[P-](F)(F)(F)(F)F.C1CC[N+]12CCCC2 | InChI=1S/C7H14N.F6P/c1-2-5-8(4-1)6-3-7-8;1-7(2,3,4,5)6/h1-7H2;/q+1;-1
